US04971963
3-[(3-Amidinomethylthio-1,2,4-thiadiazol-5-yl) thiomethyl]-7β-[2-(2-aminothiazol-4-yl)-(Z)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylic acid:
To a solution of 909 mg of sodium 3-hydroxymethyl-7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-trityloxyiminoacetamido]-3-cephem-4-carboxylate and 619 mg of 3-amidino methylthio-5-mercapto-1,2,4-thiadiazole in 8 ml of DMF was added 1.4 g of ethyl o-phenylenephosphate under ice-cooling and stirring. The reaction mixture was stirred at room temperature for 4 hours and then subjected to a column chromatography on silica gel (150 g), being eluted with aceton/water (95:5). The eluate was concentrated to dryness under reduced pressure to obtain a powder to which was added 20 ml of formic acid. After stirring at room temperature for 14 hours, the mixture was distilled under reduced pressure to remove formic acid. The residue was added with water and THF, adjusted to pH 7 under ice-cooling, washed with ethyl acetate, concentrated under reduced pressure and then subjected to a column chromatography on XAD-II (140 mg), being washed with water and eluted with 20% aqueous ethanol. The eluate was concentrated under reduced pressure and then lyophilized to give 155 mg of the title compound as a pale yellow powder.

reactant | sodium 3-hydroxymethyl-7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-trityloxyiminoacetamido]-3-cephem-4-carboxylate | 909 mg | OCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O.[Na+]
reactant | 3-amidino methylthio-5-mercapto-1,2,4-thiadiazole | 619 mg | C(N)(=N)CSC1=NSC(=N1)S | C4H6N4S3
reactant | formic acid | 20 ml | C(=O)O | CH2O2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 3-[(3-Amidinomethylthio-1,2,4-thiadiazol-5-yl) thiomethyl]-7β-[2-(2-aminothiazol-4-yl)-(Z)-2-hydroxyiminoacetamido]-3-cephem-4-carboxylic acid | 155 mg | C(N)(=N)CSC1=NSC(=N1)SCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(=N/O)\C=2N=C(SC2)N)=O)=O | C17H17N9O5S5
